US07411072B2
3-(1-Chloro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenol
Following procedures essentially as described in Example 219, below, and using 5-bromomethylene-1-chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (100 mg, 0.313 mmol) and 3-hydroxyphenylboronic acid (47 mg, 0.344 mmol) affords 8 mg (8%) of the Z-isomer of the title compound (MS (ES) 331 (M−H). HPLC shows 95% purity. Continue to elute and isolate 27 mg (26%) of the E-isomer of the title compound, MS (ES) 331 (M−H). HPLC shows 97% purity.

reactant | 5-bromomethylene-1-chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 0.313 mmol, 100 mg | BrC=C1C2=C(CCC3=C1C=CC=C3Cl)C=CC=C2 | C16H12BrCl
reactant | 3-hydroxyphenylboronic acid | 0.344 mmol, 47 mg | OC=1C=C(C=CC1)B(O)O | C6H7BO3
product | 3-(1-Chloro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenol | ClC1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC=3C=C(C=CC3)O | C22H17ClO
